US05886178
A solution of 2-chloro-3-methylbenzoyl chloride (18.05 mmol), [prepared as described above] in dry CH2Cl2 (60 ml) was cooled to 0° C. and AICl3 (2.41 g, 1 eq.) was added. After ten minutes, anisole (1.96 ml, 1 eq.) was added. The resulting orange colored reaction mixture was allowed to warm to room temperature, stirred for 3 h and then poured on ice. The product was extracted into ether, washed with brine, and dried over MgSO4 . The solvent was evaporated in vacuo to give 3-(4-methoxybenzoyl)-2-chlorotoluene (4.55 g, 97% yield) as a solid, mp 64.7°-65.8° C.

reactant | 2-chloro-3-methylbenzoyl chloride | 18.05 mmol | ClC1=C(C(=O)Cl)C=CC=C1C | C8H6Cl2O
reactant | anisole | 1.96 ml, 1 eq. | C1(=CC=CC=C1)OC | C7H8O
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-methoxybenzoyl)-2-chlorotoluene | 4.55 g, 97% yield | COC1=CC=C(C(=O)C=2C(=C(C=CC2)C)Cl)C=C1 | C15H13ClO2
